US06284756B1
Preparation of 5-[4-[3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]pentanol Oxalate
5-[4-[3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]pentanoic acid ethyl ester prepared in part A (78 mg; 0.14 mmol) was dissolved in 3 mL of anhydrous THF under an argon atmosphere, then LAH (10 mg; 0.29 mmol) was added. The resultant mixture was stirred at room temperature for 3 h. To the reaction was added 1 drop of water, 1 drop of 5 M NaOH, and 3 drops of water. The mixture was stirred at room temperature for 45 min, then water (25 mL) was added. Extraction was carried out with EtOAc (4×25 mL). The combined organics were dried by passage through Na2SO4. The product was isolated as a colorless oil (49 mg; 66%) by flash chromatography on silica gel, eluting with EtOAc(10-90%)/Et3N(0-5%)/MeOH(0-5%). Conversion to the oxalate was effected in the usual way.

reactant | 5-[4-[3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]pentanoic acid ethyl ester | C(C)OC(CCCCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2)=O | C34H39NO4S
reactant | LAH | 0.29 mmol, 10 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 25 mL | O | H2O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | water | 1 drop | O | H2O
catalyst | NaOH | 5 M, 1 drop | [OH-].[Na+]
catalyst | water | 3 drops | O | H2O
product | 5-[4-[3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]pentanol Oxalate | C(C(=O)O)(=O)O.N1(CCCC1)CCOC1=CC=C(CC=2C3=C(SC2C2=CC=C(OCCCCCO)C=C2)C=CC=C3)C=C1 | InChI=1S/C32H37NO3S.C2H2O4/c34-21-6-1-7-22-35-28-16-12-26(13-17-28)32-30(29-8-2-3-9-31(29)37-32)24-25-10-14-27(15-11-25)36-23-20-33-18-4-5-19-33;3-1(4)2(5)6/h2-3,8-17,34H,1,4-7,18-24H2;(H,3,4)(H,5,6)
